US09145415B2
To a solution of ethyl 6-((3-fluorophenyl)amino)-4-(propylamino)nicotinate (S15, 247 mg) in ethanol (3 mL) and tetrahydrofuran (1.5 mL), 2.0 mol/L aqueous sodium hydroxide (0.78 mL) was added at room temperature, and the mixture was stirred at 50° C. for 1 hour. To the reaction mixture, 2.0 mol/L aqueous sodium hydroxide (0.39 mL) was added at 50° C., and the mixture was stirred at the same temperature for 3 hours. The reaction mixture was cooled to room temperature, and then 1.0 mol/L aqueous hydrochloric acid was added to the reaction mixture until the mixture became acidic. The solid matter was taken by filtration, washed with water, and then dried under reduced pressure to obtain 6-((3-fluorophenyl)amino)-4-(propylamino)nicotinic acid (S16, 130 mg).

reactant | ethyl 6-((3-fluorophenyl)amino)-4-(propylamino)nicotinate | 247 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=O)OCC)C(=C1)NCCC | C17H20FN3O2
reactant | hydrochloric acid | 1.0 mol/L | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2.0 mol/L, 0.78 mL | [OH-].[Na+]
solvent | sodium hydroxide | 2.0 mol/L, 0.39 mL | [OH-].[Na+]
product | 6-((3-fluorophenyl)amino)-4-(propylamino)nicotinic acid | 130 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=O)O)C(=C1)NCCC | C15H16FN3O2
